US07741327B2
To a solution of 2-chlorophenol (3186 g, 24.78 mol) in tetrahydrofuran (14000 mL) at 12° C. was added a 20% potassium t-butoxide solution in tetrahydrofuran (8150 mL, 13.48 mol) over 45 min maintaining an internal temperature between 12-17° C. The solution was warmed to 22° C. and stirred for 1 h before ethyl 2-butynoate (1400 g, 12.48 mol) was added in one portion. The resulting mixture was warmed to 40° C., and stirred for 19.75 h. The reaction mixture was transferred to an extractor and was diluted with methyl t-butyl ether (21 L) and an aqueous 1N aqueous sodium hydroxide solution (14 L). The mixture was stirred and separated and the organic phase washed with an 1N aqueous sodium hydroxide solution (14 L). The aqueous phases were combined and extracted with methyl t-butyl ether (10 L). The organic layer was washed with an 1N aqueous sodium hydroxide solution (7 L). The combined organic phases were washed with a 20% sodium chloride solution (14 L). The solution was evaporated to give (E)-3-(2-chloro-phenoxy)-but-2-enoic acid ethyl ester (96.9% pure by HPLC, 3134 g, 101%) as a light yellow oil.

reactant | 2-chlorophenol | 24.78 mol, 3186 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | ethyl 2-butynoate | 12.48 mol, 1400 g | C(C#CC)(=O)OCC | C6H8O2
reactant | sodium hydroxide | 1N, 14 L | [OH-].[Na+]
solvent | tetrahydrofuran | 14000 mL | O1CCCC1 | C4H8O
solvent | methyl t-butyl ether | 21 L | C(C)(C)(C)OC | C5H12O
solvent | tetrahydrofuran | 13.48 mol, 8150 mL | O1CCCC1 | C4H8O
product | (E)-3-(2-chloro-phenoxy)-but-2-enoic acid ethyl ester | 3134 g | C(C)OC(\C=C(/C)\OC1=C(C=CC=C1)Cl)=O | C12H13ClO3
